Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with PMHx gout, HTN, and prior DVT (in ___,
treated with warfarin) who presents with a chief complaint of R
calf swelling and pain for the past ___ days.  He is admitted 
for
ongoing management of DVT.

Pt states he was in his usual state of health until about
yesterday, when he leg was bigger and more red than it had
previously been.  He realized he had maybe dismissed a small
amount of swelling the day before and ignored it; he thought it
was just a bit of gout acting up.  When the leg got bigger and
more painful, he presented to the ED because he was worried 
about
a recurrent DVT.  This type of presentation (redness, swelling,
pain) was similar to his prior R thigh DVT.

Pt biked today to ___ for further evaluation of his leg
swelling.

In the ED, initial VS were:  T 96.5 BP 145/92 HR 80 RR 16 O2 99%
on RA
Exam notable for: 
"Ext: +2 pitting edema in the right lower extremity extending
from the proximal ankle to just above the right calf. There is
mild erythema in the area is warm to touch but nontender."
Labs showed: 
-WBC 11.9, Hb 15.2, Plt 144
-INR 1.2
-Cr 1.8 (unclear baseline) 
Imaging showed:  
UNILATERAL RIGHT LOWER EXTREMITY VENOUS DOPPLER (___):
Variant vascular anatomy with partial and complete occlusive
thrombus seen throughout the common femoral, superficial 
femoral,
popliteal, posterior tibial, and peroneal veins, as detailed
above.
Consults:  
VASCULAR SURGERY:  
"Patient seen and discussed with fellow. Patient with prior
history of DVT s/p completion of AC ___ years ago who presents 
with
RLE DVT. No pain presently. Palpable pulses on exam and
sensorimotor intact. Agree with systemic anticoagulation and
admission to medicine; no indication for thrombolytic therapy.
Additionally, recommend ACE wrap and leg elevation to ameliorate
swelling."
Patient received: Heparin gtt 
 
Transfer VS were:  T 97.7 BP 153/90 HR 64 RR 18 O2 100% on RA

On arrival to the floor, patient reports the above history.  He
feels well; he has been ambulating without difficulty and has
intact sensation in his leg.  He jokes that he didn't even bring
a cell phone with him to the hospital, because he thought he
would be in and out of the ED owing to his benign condition.  He
did not have any preceding periods of long immobility, recent
trauma, or injuries to the leg.  He was previously evaluated as
to causes of his first DVT, but no obvious cause was found.  

He denies fevers, chills, leg numbness, chest pain, 
palpitations,
SOB, abdominal pain, N/V/D, dysuria, and
dizziness/lightheadedness.
 

 
Past Medical History:
Hypertension
Gout
Chronic kidney disease ("it's about 30% of normal," unknown
baseline Cr)
Prior DVT of R thigh (treated previously with warfarin; no clear
provocateur identified)
 
 
Social History:
___
Family History:
"Everybody dies of heart attacks or strokes."  None of these
events happen before ___ years old; most people in his family 
live
into their ___.  No early history of heart disease or
malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  T 98.1 BP 164/96 HR 61 RR 18 O2 97% on RA
GENERAL: Well built Caucasian male, sitting up in bed 
unassisted.
Wearing his work clothes and jeans, as well as a pair of dress
boots.  Pleasant and cooperative, in NAD.
HEENT: Sclerae anicteric, MMM.
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Normoactive bowel sounds.  Abdomen is soft, 
protuberant,
nontender in all quadrants, with no rebound/guarding. 
EXTREMITIES: Warm and well perfused.  Left leg within normal
limits.  There is ___ pitting edema to ___ of the way up the
right shin.  Dorsalis pedis pulse is +2 on the right.  There is
no ___ sign or palpable cord.
NEURO: Moves all four extremities with purpose.  Sensation 
intact
to light touch on the right leg.  

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD, sitting comfortably in bed
HEENT: Sclerae anicteric, MMM, NC/AT
LUNGS: breathing comfortably without use of accessory muscles  
EXTREMITIES: Warm and well perfused.  Left leg within normal
limits.  1+ pitting edema in RLE, grossly larger in appearance 
compared to LLE
NEURO: Moves all four extremities with purpose.  
 
Pertinent Results:
___ 05:17AM BLOOD WBC-9.9 RBC-4.75 Hgb-14.5 Hct-42.7 MCV-90 
MCH-30.5 MCHC-34.0 RDW-13.0 RDWSD-42.0 Plt ___
___ 05:17AM BLOOD ___ PTT-64.6* ___
___ 01:15PM BLOOD Neuts-72.0* Lymphs-16.9* Monos-6.9 
Eos-3.4 Baso-0.3 Im ___ AbsNeut-8.58* AbsLymp-2.02 
AbsMono-0.82* AbsEos-0.41 AbsBaso-0.03
___ 01:15PM BLOOD Glucose-165* UreaN-29* Creat-1.8* Na-143 
K-4.1 Cl-104 HCO3-25 AnGap-14
___ 05:17AM BLOOD Glucose-109* UreaN-25* Creat-1.7* Na-143 
K-4.3 Cl-105 HCO3-25 AnGap-13

RLE U/S
FINDINGS:  
  
There is a small linear peripheral nonocclusive thrombus in the 
right common 
femoral vein.  Variant vascular anatomy of the right lower 
extremity vein is 
detailed below: 
  
The proximal superficial femoral vein demonstrates normal 
compressibility, 
color flow, spectral Doppler. 
  
There are 2 branches of the superficial femoral vein in the mid 
thigh: 
  
Mid superficial femoral vein 1: Noncompressible with some 
internal color flow, 
concerning for partial occlusion. 
  
Mid superficial femoral vein 2: Compressible, with normal color 
flow, and 
spectral Doppler. 
  
In the distal thigh there are apparently 3 distinct lumen of the 
superficial 
femoral veins, however is unclear if this represents 3 veins or 
2 veins, 1 
with intraluminal web or prominent valve. 
  
Distal superficial femoral vein 1: Noncompressible and minimal 
Doppler color 
flow, concerning for occlusion. 
  
Distal superficial femoral vein 2: Noncompressible with some 
internal color 
flow, concerning for partial occlusion. 
  
Distal superficial femoral vein 3: Compressible, with normal 
color flow, and 
spectral Doppler. 
  
Popliteal vein 1: Noncompressible, with some internal color 
flow, concerning 
for partial occlusion. 
  
Popliteal vein 2: Compressible, with normal color flow, and 
spectral Doppler. 
  
  
Peroneal and posterior tibial veins are noncompressible, without 
significant 
appreciable color flow, concerning for thrombosis. 
  
IMPRESSION:  
  
Variant vascular anatomy with partial and complete occlusive 
thrombus seen 
throughout the common femoral, superficial femoral, popliteal, 
posterior 
tibial, and peroneal veins, as detailed above. 
  

 
Brief Hospital Course:
___ with PMHx prior DVT ___, HTN, and gout who presents with 
two days
of acute right lower extremity swelling found to have 
significant
RLE DVT burden. Given this was unprovoked and a recurrent DVT, 
he merits lifelong anticoagulation. 

ACTIVE ISSUES:
# EXTENSIVE RIGHT LOWER EXTREMITY DVT:
Of common femoral, superficial femoral, popliteal, posterior
tibial, and peroneal veins. He reassuringly does not have
limb-threatening ischemia, evidence of phlegmasia, or 
significant
proximal involvement to warrant CDT or thrombectomy. He was 
initially treated with heparin gtt and converted to apixaban. He 
should have all age appropriate cancer screening and can 
consider referral to hematology for thrombophilia workup if 
desired. He should have lifelong anticoagulation.

CHRONIC/STABLE ISSUES:
# HISTORY OF HYPERTENSION:
-Home amlodipine
-Home lisinopril
-home metoprolol

# HISTORY OF GOUT:
-Home allopurinol

# HISTORY OF CHRONIC KIDNEY DISEASE:
Does not know his baseline creatinine, but Cr 1.7-1.8 this 
hospitalization.

TRANSITIONAL ISSUES:
======================
[] lifelong anticoagulation
[] please ensure up to date on age appropriate cancer screening
[] can consider thrombophilia workup

#CODE: Full (confirmed) 
#CONTACT: ___, friend (___)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Metoprolol Succinate XL 37.5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days  
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 10 mg PO DAILY  
4.  Atorvastatin 40 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Metoprolol Succinate XL 37.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___.

WHY WAS I HERE?
-You had a large blood clot in your leg

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
-You were given blood thinners

WHAT SHOULD I DO WHEN I GO HOME?
-Take you apixaban as directed
-Be careful when you ride your bike
-If you have bleeding that will not stop call your doctor or go 
to the ED

Be well!

Your ___ Care Team
 
Followup Instructions:
___